US04033996
A solution composed of ethyl 7-[N-(4-acetoxynonyl)methanesulfonamido]heptanoate (6.0 g., 0.0134 mole), sodium hydroxide (1.66 g., 0.0414 mole), water (9 ml.), and ethanol (81 ml.) is kept at room temperature for 20 hours. Most of the solvent is removed in vacuo, water (150 ml.) is added and the solution extracted with ethyl acetate (100 ml.). Then the aqueous layer is acidified (hydrochloric acid) and extracted again with ethyl acetate (2× 75 ml.). The organic layer is dried over sodium sulfate then concentrated in vacuo to yield 7-[N-(4-hydroxynonyl)methanesulfonamido]heptanoic acid. The yield is 4.3 g. (88%).

reactant | ethyl 7-[N-(4-acetoxynonyl)methanesulfonamido]heptanoate | 0.0134 mole, 6.0 g | C(C)(=O)OC(CCCN(S(=O)(=O)C)CCCCCCC(=O)OCC)CCCCC | C21H41NO6S
reactant | sodium hydroxide | 0.0414 mole, 1.66 g | [OH-].[Na+]
reactant | water | 9 ml | O | H2O
solvent | ethanol | 81 ml | C(C)O | C2H6O
product | 7-[N-(4-hydroxynonyl)methanesulfonamido]heptanoic acid | OC(CCCN(S(=O)(=O)C)CCCCCCC(=O)O)CCCCC | C17H35NO5S
